US07723391B2
To a solution of trans-2,2-dimethyl-3-phenyl-cyclopropanecarboxylic acid (1.78 g, 9.4 mmol) in acetone was added water (4 mL) followed, at −5° C., by ethyl chloroformate (0.982 mL, 10.34 mmol). The reaction mixture was stirred for 20 minutes and then a solution of sodium azide (731 mg, 11.28 mmol) in water (8 mL) was added. The resulting mixture was stirred for 45 minutes and then diluted with a 1:1 mixture of water and toluene. The organic layer was separated, dried over Na2SO4, filtered and heated at 100° C. for 1 hour. The solvent was then removed under reduced pressure and an aqueous solution of HCl (8 M, 30 mL) was added, and the resulting mixture was heated at reflux for 45 minutes. The reaction mixture was cooled and an aqueous solution of HCl (10%) was added; the resulting mixture was washed with ethyl ether, then basified by addition of NaOH. The resulting mixture was extracted with ethyl ether, and the combined organic extracts were dried over Na2SO4, filtered, and evaporated under reduced pressure to give 1.05 g (70% yield) of trans-2,2-dimethyl-3-phenyl-cyclopropylamine.

reactant | trans-2,2-dimethyl-3-phenyl-cyclopropanecarboxylic acid | 9.4 mmol, 1.78 g | CC1([C@H]([C@@H]1C1=CC=CC=C1)C(=O)O)C | C12H14O2
reactant | ethyl chloroformate | 10.34 mmol, 0.982 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 11.28 mmol, 731 mg | [N-]=[N+]=[N-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
solvent | water | 8 mL | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 4 mL | O | H2O
product | trans-2,2-dimethyl-3-phenyl-cyclopropylamine | 1.05 g, 70% yield | CC1([C@H]([C@@H]1C1=CC=CC=C1)N)C | C11H15N
